US06503907B2
To 230 mg (1 mmol) 1-(4-Fluoro-phenyl)-1H-indol-5-ol in 4 ml acetone were added 280 mg (2 mmol) powdered K2CO3 and 0.24 ml (2 mmol) 1,4-dibromobutane. The suspension was stirred at 55° C. for 5 h, cooled to RT and concentrated. The crude product was extracted with water and ether, the combined organic phases were washed and dried with Na2SO4. Purification by column chromatography on silica gel with hexane/EtOAc 9:1 yielded 320 mg (88%) 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-1H-indole as light yellow solid, 59-61° C., MS: 361 (M, 1Br).

reactant | 1-(4-Fluoro-phenyl)-1H-indol-5-ol | 1 mmol, 230 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 2 mmol, 0.24 ml | BrCCCCBr | C4H8Br2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-1H-indole | 320 mg, 88% | BrCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C18H17BrFNO
